US05763481
12,12-Difluorododec-11-enoic acid N-(4-propylsulfonylphenyl)amide
8.5 g of 12,12-difluorododec-11-enoic acid chloride are added at room temperature to 3.45 g of 4-propylsulfonylaniline, 2.5 g of triethylamine and 100 mg of 4-dimethylaminopyridine in 50 ml of toluene and the mixture is stirred for 2 days at room temperature. A further 50 ml of toluene is then added, the toluene phase is washed with water, dried over sodium sulfate and concentrated to dryness by evaporation in vacuo. The residue is chromatographed on silica gel with hexane:ethyl acetate (7:3), yielding the title compound having a melting point of 67°-70° C. (compound no. 3-4).

reactant | 12,12-difluorododec-11-enoic acid chloride | 8.5 g | FC(=CCCCCCCCCCC(=O)Cl)F | C12H19ClF2O
reactant | 4-propylsulfonylaniline | C(CC)S(=O)(=O)C1=CC=C(N)C=C1 | C9H13NO2S
reactant | triethylamine | 2.5 g | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 12,12-Difluorododec-11-enoic acid N-(4-propylsulfonylphenyl)amide | C(CC)S(=O)(=O)C1=CC=C(C=C1)NC(CCCCCCCCCC=C(F)F)=O | C21H31F2NO3S
